US06235731B1
2) Synthesis of N-[3-(N-methyl-N-(3-phenylpropan-1-yl)amino)propan-1-yl)-5-thia-1,8b-diazaacenaphthylene-4-carboxamide Dihydrochloride
To a solution of 577.3 mg (1.42 mM) of N-[3-(N-(3-phenylpropan-1-yl)amino)propan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide in ethanol (6 ml) was added 2.0 ml (8.0 mM) of 4N-HCl/methanol at room temperature and the mixture was stirred for several minutes. The solvent was then distilled off under reduced pressure to provide the title compound.

reactant | N-[3-(N-(3-phenylpropan-1-yl)amino)propan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | 1.42 mM, 577.3 mg | C1(=CC=CC=C1)CCCNCCCNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | C22H24N4OS
reactant | HCl methanol | Cl.CO
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | N-[3-(N-methyl-N-(3-phenylpropan-1-yl)amino)propan-1-yl)-5-thia-1,8b-diazaacenaphthylene-4-carboxamide Dihydrochloride | Cl.Cl.CN(CCCC1=CC=CC=C1)CCCNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | InChI=1S/C23H26N4OS.2ClH/c1-26(14-6-10-18-8-3-2-4-9-18)15-7-13-24-23(28)20-16-19-17-25-21-11-5-12-22(29-20)27(19)21;;/h2-5,8-9,11-12,16-17H,6-7,10,13-15H2,1H3,(H,24,28);2*1H
